US06797823B1
N-[2-Chloro-4-({6-methoxy-7-[3-(4-pyridylthio)propoxy]-4-quinazolinyl}oxy)phenyl]-N′-propylurea
A starting compound (N-(4-{[7-(3-bromopropoxy)-6-methoxy-4-quinazolinyl]oxy}-2-chlorophenyl)-N′-propyl-urea, 80 mg), potassium carbonate (138 mg), and 4-mercaptopyridine (22 mg) were dissolved in N,N-dimethylformamide (1 ml), and the solution was stirred at room temperature for 3 hr. Water was added to the reaction mixture, and the mixture was extracted with chloroform-propanol (3/1). The organic layer was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure. The residue was washed with ether to give 60 mg (yield 72%) of the title compound.

reactant | N-(4-{[7-(3-bromopropoxy)-6-methoxy-4-quinazolinyl]oxy}-2-chlorophenyl)-N′-propyl-urea | BrCCCOC1=C(C=C2C(=NC=NC2=C1)OC1=CC(=C(C=C1)NC(=O)NCCC)Cl)OC | C22H24BrClN4O4
reactant | potassium carbonate | 138 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-mercaptopyridine | 22 mg | SC1=CC=NC=C1 | C5H5NS
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | N-[2-Chloro-4-({6-methoxy-7-[3-(4-pyridylthio)propoxy]-4-quinazolinyl}oxy)phenyl]-N′-propylurea | 60 mg, yield 72% | ClC1=C(C=CC(=C1)OC1=NC=NC2=CC(=C(C=C12)OC)OCCCSC1=CC=NC=C1)NC(=O)NCCC | C27H28ClN5O4S
